US06441052B1
DMAP (0.03 g; 0.24 mnol) was added to a mixture of 5-cyclopentylidenepentan-2-ol (5.0 g; 32 mmol), propionic anhydride (6.7 ml, 52 mmol), and Et3N (7.2 ml, 52 mmol). After 1.5 hours stirring at room temperature, the reaction mixture was diluted with MTBE (140 ml), washed with 2N HCl (60 ml), water (60 ml), saturated NaHCO3 (60 ml), again with water (60 ml), and brine (60 ml), dried over MgSO4 and concentrated in vacuo. Distillation under reduced pressure (87° C.-92° C./0.04 torr) afforded 5.38 g (80% yield) of 5-cyclopentylidenepent-2-yl propanoate.

reactant | 5-cyclopentylidenepentan-2-ol | 32 mmol, 5.0 g | C1(CCCC1)=CCCC(C)O | C10H18O
reactant | propionic anhydride | 52 mmol, 6.7 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | Et3N | 52 mmol, 7.2 ml | CCN(CC)CC | C6H15N
catalyst | DMAP | 0.03 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MTBE | 140 ml | CC(C)(C)OC | C5H12O
product | 5-cyclopentylidenepent-2-yl propanoate | 5.38 g, 80% yield | C(CC)(=O)OC(C)CCC=C1CCCC1 | C13H22O2
